US04812164
using 3-(4-bromo-2-fluoro-5-isopropoxyphenyl)-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione with phosphorus oxychloride and pyridine there is obtained 1-(4-bromo-2-fluoro-5-isopropoxyphenyl)-2-chloro-4-trifluoromethyl-6(1H)-pyrimidinone, m.p. 102° C.;

reactant | 3-(4-bromo-2-fluoro-5-isopropoxyphenyl)-6-trifluoromethyl-2,4(1H,3H)-pyrimidinedione | BrC1=CC(=C(C=C1OC(C)C)N1C(NC(=CC1=O)C(F)(F)F)=O)F | C14H11BrF4N2O3
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-(4-bromo-2-fluoro-5-isopropoxyphenyl)-2-chloro-4-trifluoromethyl-6(1H)-pyrimidinone | BrC1=CC(=C(C=C1OC(C)C)N1C(=NC(=CC1=O)C(F)(F)F)Cl)F | C14H10BrClF4N2O2
